Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ yo with malignant fibrous histiosarcoma of right hip bone 
admitted for C1 CDDP/adriamycin.
 
Major Surgical or Invasive Procedure:
___ PICC placement.
___ Upper endoscopy (EGD).
___ Kidney biopsy.
___ Colonoscopy.

 
History of Present Illness:
___ is a ___ gentleman who was in his usual state 
ofhealth until a few weeks ago when he started developing a 
significant right hip pain.  At the same time, he had decreased 
appetite and significant weight loss (65 pounds) within a short 
period of time.  He was also describing having night sweats for 
the last three to four months, weakness and fatigue.
.
The patient initially was evaluated for his right hip pain and 
it was felt that is due to arthritis and so he had a trial of 
prednisone without improvement of his symptoms and so an MRI of 
the hip was obtained on ___ that revealed a large right sided 
necrotizing mass with adjacent abnormal bone marrow signal 
within the right hemipelvis, which was concerning for sarcoma.  
He also had a chest CT on ___ that revealed a solitary 
triangular right upper lobe solid pulmonary nodule measuring up 
to 7 mm.  On ___, he underwent CT-guided biopsy of the 
right hip lesion that confirmed malignant fibrous histiosarcoma 
of the bone. He was discharged to rehab from his most recent 
hospitalization when he was diagnosed with his sarcoma and also 
found to have a hospital acquired pneumonia and noted to have a 
right apical lung mass of 7 mm. He returns from rehab for his 
first cycle of chemotherapy. On ROS he endorses constipation and 
ongoing right hip pain with movement, he is relatively 
comfortable at rest. He denies fevers, sweats, chills, cough. He 
Denies fever,  headache, vision changes, rhinorrhea, congestion, 
sore throat, cough, shortness of breath, chest pain, abdominal 
pain, nausea, vomiting, diarrhea,  BRBPR, melena, hematochezia, 
dysuria, hematuria. all other ROS are negative.
 
Past Medical History:
osteoarthritis  
HTN
glaucoma
HLD
h/o prostate CA: external beam radiation therapy completed in 
___ and he also received hormones with this treatment.
 
Social History:
___
Family History:
no FH of colon cancer or polyps.  Mother had HTN and died of a 
stroke.  Father died when patient was young, cause of death 
unknown.
 
Physical Exam:
ADMISSION EXAM:
Pain: Controlled   Uncontrolled  0  1  2  ___  ___  9  
10    Location: right posterior hip 
VS: T99.8  BP142/62  P93   RR20    O2Sat 93 % on RA   
GENERAL:  ill appearing in no apparent distress   
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted, + arcus senilis  
Ears/Nose/Mouth/Throat: Mucous membranes moist,without ulcers or 
exudates, poor dentition 
Neck: supple, no JVD  
Respiratory: CTA bilaterally without rhonci, without wheezes
Cardiovascular: distant RRR, S1S2, no murmurs, no rubs, no 
gallops 
Gastrointestinal: soft, NT/ND, no rebound, no guarding, 
normoactive bowel sounds, no masses or organomegaly noted. 
Skin: warm, dry, no rashes or lesions noted. No pressure ulcers  

Extremities: without cyanosis, without clubbing, without edema, 
without joint swelling, pulses 1+ equal bilaterally 
Lymphatics/Heme/Immun: No cervical, no supracalvicular, no 
axillary, non inguinal lymphadenopathy noted.   
Neurologic:  
-mental status: Alert, oriented x 3. Normal attention. Able to 
relate history without difficulty. Fluent speech. 
-cranial nerves: II-XII intact  
-motor: decreased bulk, strength and tone throughout. exam non 
focal but limited by pain. No abnormal movements noted.
-sensory: No deficits to light touch throughout.  
Psychiatric:  calm, pleasant, appropriate.
 
Pertinent Results:
ADMISSION EXAM:
___ 01:45PM   GLUCOSE-115* UREA N-19 CREAT-0.9 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-105 TOTAL CO2-27 ANION GAP-13
___ 01:45PM   ALT(SGPT)-39 AST(SGOT)-33 ALK PHOS-93 TOT 
BILI-0.4
___ 01:45PM   CALCIUM-8.7 PHOSPHATE-3.9 MAGNESIUM-2.3
___ 01:45PM   WBC-7.5 RBC-3.43* HGB-9.6* HCT-28.3* MCV-83 
MCH-28.1 MCHC-34.0 RDW-14.1
___ 01:45PM   NEUTS-80.4* LYMPHS-10.5* MONOS-6.7 EOS-1.8 
BASOS-0.5
___ 01:45PM   PLT COUNT-376
.
___ pCXR: Cardiomediastinal contours are unchanged with 
cardiomegaly and tortuous aorta. Low lung volumes are unchanged. 
New bibasilar opacities, right greater than left, are likely 
atelectasis. New left perihilar opacities are most likely due to 
pneumonia, given the clinical symptoms of fever. There is no 
pneumothorax or large pleural effusions.
.
___ Bedside swallowing study: pt presented with a functional 
swallowing mechanism without overt s/sx of aspiration. Based on 
today's evaluation, pt appears safe to continue on PO diet of 
regular consistency solids and thin liquids. Silent aspiration 
cannot be r/o at bedside.
.
___ CTA: IMPRESSION: Moderate cardiac enlargement is 
generalized, a moderate pericardial effusion is stable since 
___.
1. Nondiagnostic CT pulmonary angiogram. While a pulmonary 
embolism is not identified, this study is not adequate for its 
exclusion.
2. Multifocal consolidation in the dependent portions of the 
lungs. This is nonspecific but likely due to recurrent 
aspiration pneumonia.
3. Bilateral hilar and subcarinal adenopathy, which has 
increased in size since ___. This is nonspecific but most 
likely hyperplastic.
4. Increasing right upper lobe solid 8-mm nodule, concerning for 
metastasis.
5. Incidental findings of a stable soft tissue nodule that 
indenting the posterior upper trachea (11:5) since ___, 
which could represent a lymph node or a submucosal esophageal 
lesion such as a leiomyoma (11:5). This could be evaluated 
endoscopically if clinically appropriate.
.
___ ECHO: IMPRESSION: LVEF >55%.  Trivial pericardial 
effusion. Biatrial enlargment. Normal left ventricular cavity 
size and wall thickness with preserved global and regional 
biventricular systolic function. Mild tricuspid regurgitation. 
Mild to moderate pulmonary artery systolic hypertension.
.
___ CXR PORTABLE: There is interval progression of 
multifocal opacities in the lung bases but slight improvement in 
the left perihilar opacity. Cardiomediastinal silhouette is 
unchanged. No pneumothorax is seen. Small amount of pleural 
effusion cannot be entirely excluded. The right PICC line tip is 
at the level of low SVC.
.
___ CXR: In comparison with the study of ___, there has 
been some improvement in the areas of consolidation at the 
bases. However, there is a dense triangular region in the 
retrocardiac region that suggests substantial volume loss in the 
left lower lobe.
.
___ RENAL U/S: IMPRESSION: No findings to explain the 
patient's acute renal failure.  Bilateral renal cysts as 
identified on recent CT.
.
___ CT ABDOMEN: IMPRESSION:
1. Increase in size of osteosarcoma of the hip.
2. No hydronephrosis or other explanation for acute renal 
failure.
.
___ DOPPLER U/S BILAT LEGS: IMPRESSION: No evidence of DVT 
seen in bilateral lower extremity veins.
.
___ COLONOSCOPY: Diverticulosis of the sigmoid colon, 
abnormal mucosa (telangiectasias) in the distal rectum 
consistent with radiation proctitis, otherwise normal 
colonoscopy to cecum.
.
DISCHARGE LABS:
142|106|56
----------- 96
4.3|27 |3.6

10.9 > 27.5 < ___ man with malignant fibrous histiosarcoma of the right hip 
admitted from rehab for cisplatin and doxurbicin cycle #1, but 
delayed due to fever and pneumonia.  First day of admission, 
chemo was delayed for line placement, but ___ day, he developed 
fever.  CXR showed recurrent multifocal pneumonia.  Cefepime and 
vancomycin started.  Episode on ___ of sinus tachycardia (HR 
160s).  CT angiogram ___ was negative for PE.  Echo ___ 
showed moderate trivial pericardial effusion (vs. moderate on 
CTA).  EGD ___ showed severe reflux esophagitis and a large 
hiatal hernia.  PPI started.  Metronidazole added for aspiration 
pneumonia.  General surgery was consulted for hiatal hernia, but 
they felt he was not a candidate for surgical repair.  He 
completed XRT to right hip sarcoma ___.  Nephrology was 
consulted for progressive acute renal failure.  Muddy brown 
casts in urine consistent with ATN, but no clear cause.  Urine 
eos consistent with AIN; PPI changed to H2 blocker.  Kidney 
biopsy ___ prelim result is ATN.  Colonoscopy ___ showed 
telangiectasias in the distal rectum consistent with radiation 
proctitis.  He started cycle #1 ___ with infusional 
doxorubicin x2d which he tolerated well and was discharged to 
rehab.
.
# Acute renal failure: Pt developed acute renal failure during 
hospital stay.Urine with muddy brown casts and prelim renal 
biopsy ___ consistent with ATN.  Ethiology unclear.  No known 
exposures to nephrotoxic drugs.  Uric acid normal, LDH stable, 
CK normal, SPEP/UPEP negative.  Nephrology service was following 
and will follow pt as outpt.   Peak creatinine 4.2, and on d/c 
continuing to trend down. On d/c cre was 4.3. Throughout 
hospital stay pt continued to have good urine otput an dlytes 
remained wnl.

# Catheter-associated UTI: Pyuria and leukocyte esterase 
consistent with UTI despite negative cultures.  D/C'd Foley 
which was placed for strict i/o , and pt was started cipro 
___. Pt will complete a 7 day course.
.
# Multifocal pneumonia: Recurrent.  ID and Pulmonary consulted.  
Galactomannan and beta-glucan negative.  Completed 2wks 
cefepime, vancomycin, and metronidazole for aspiration pneumonia 
on ___.  Bedside swallow eval negative.  Chronic aspiration 
secondary to severe GERD, a result of a large hiatal hernia. Pt 
will need a F/U CXR on ___.
.
# Hiatal hernia/GERD: General surgery did not recommend surgical 
repair of hiatal hernia.  Pt was started on a PPI which was 
switched to an H2 blocker in case PPI was causing AIN. Head of 
bed should be elevated at all times.
.
# GI bleed: Occasional melena and hematochezia.  2U RBCs 
transfused ___.  EGD ___ showed severe reflux 
esophagitis and a large hiatal hernia.  Incomplete prep at that 
time for colonoscopy.  PPI BID started and switched to an H2 
blocker in case PPI caused AIN.  Colonoscopy ___ showed 
radiation proctitis.  No intervention needed.
.
# Anemia: Transfused 2U pRBCs ___, and ___.  
Iron studies reflected anemia of inflammation (chronic disease). 
 Iron deficiency was also a likely component given GI bleeding 
attributed to esophagitis on EGD.  Colonoscopy ___ showed 
radiation proctitis.
.
# Right hip histiosarcoma: Chemotherapy initially held because 
of pneumonia and then ARF.  Multiple family meetings.  XRT 
completed ___.  He cannot have cisplatin with current renal 
failure, but infusional doxorubicin x2d was started ___ and 
planned for q3-4wks with rehab in between.Pt tolerated treatment 
well. He will need to start neulasta shots x7 day 24 hrs after 
completion of ___ morning ___
.
# Massive scrotal edema and lower extremity edema: Negative 
echo.  Negative ___ doppler U/S.  No nephrotic syndrome, but low 
albumin and concern for lymphatic obstruction from right hip 
mass.
.
# Hypoxia: Pt had an episode of hypoxia due to narcotic-induced 
respiratory depression +/- aspiration.  Resolved with decreased 
narcotic dose.
.
# Thrush: Completed a course of fluconazole.
.
# Confusion (acute delirium): Likely due to pain meds.  Resolved 
with change of pain meds.
.
# Pain (right hip): Pt was initially on MScontin which he did 
not tolerate (delerium, hallucinations, myoclonic jerks) 
MScontin discontinued and switched to  OxyContin, prn oxycodone, 
and lidocaine patch.Throughout hospital stay pain improved 
significantly, partly, likely due to radiation treatment.
.
# Hyperlipidemia: Held simvastatin given above issues.
.
# Hypertension: Continued diltiazem. Blood pressure reamined 
overall well controlled w/o episodes of hypotension.
.
# BPH: Continued doxazosin.
.
# Glaucoma: Continued timolol and latanoprost.
.
# Solitary lung nodule: Possible met lesion on CTA.  This will 
be followed with repeat staging CTs.
.
# Constipation: Continued bowel regimen.
.
# FEN: Regular cardiac diet.  Encouraged PO water for 
hypernatremia.
.
# DVT PPx: Pneumoboots.  No heparin due to GI bleed.
.
# Precautions: Fall and aspiration.
.
# Lines: ___ placed ___.
.
# CODE: FULL.
 
Medications on Admission:
colace 100 BID
senna 1 po BID
ms contin 30 mg BID
morphine immediate release ___ mg Q 3 hours prn
ferous sulfate 300 mg daily
asa 81 mg daily
diltiazem 360 mg daily
doxazosin 8 mg dailly
simcastatin 10 mg daily
timolol 1 ggt each eye BID
mvi 1 daily
ergocalciferol 50,000 units  daily
zinc sulfate 220 daily
acetaminophen 650 mg po Q4hours prn
magnesium hydroxide 
 
Discharge Medications:
1. diltiazem HCl 180 mg Capsule, Extended Release Sig: Two (2) 
Capsule, Extended Release PO DAILY (Daily).  
2. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO QID (4 times a day) as needed 
for Indigestion.  
3. doxazosin 4 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
4. timolol maleate 0.25 % Drops Sig: One (1) Drop Ophthalmic BID 
(2 times a day).  
5. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for shortness of breath or wheezing.  
6. bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed for 
Constipation.  
7. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  
9. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
DAILY (Daily) as needed for constipation.  
10. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
12. lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO Q8H 
(every 8 hours) as needed for constipation.  
13. oxycodone 20 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours).  
14. oxycodone 5 mg/5 mL Solution Sig: Five (5) ml PO Q4H (every 
4 hours) as needed for Pain.  
15. acetaminophen 650 mg/20.3 mL Solution Sig: One (1)  PO Q6H 
(every 6 hours) as needed for Pain.  
16. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 2 days.  
18. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours as needed for nausea/anxiety for 5 days.  
19. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea for 5 days.  
20. Neupogen 480 mcg/0.8 mL Syringe Sig: One (1)  Injection once 
a day for 7 days: start on ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right hip fibrous histiosarcoma.
Aspiration pneumonia.
Sinus tachycardia.
Gastrointestinal bleeding.
Severe esophagitis.
Hiatal hernia.
Gastroesophageal reflux disease (GERD).
Anemia (low red blood cell count).
Right hip pain.
Lung nodule.
Thrush (fungal mouth infection).
Acute kidney failure.
Radiation proctitis (inflammation of the rectum).

 
Discharge Condition:
Activity Status: Out of Bed with assistance to chair or 
wheelchair.
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
You were admitted from rehabilitation for chemotherapy for your 
hip sarcoma.  However, you were not able to receive chemotherapy 
 immediately because an IV line needed to be placed on admission 
and the following day you developed a high fever.  The fever was 
due to pneumonia and IV antibiotics were started.  A swallow 
study looking for aspiraton (swallowing down the wind pipe) was 
negative.  Pulmonary was consulted because the fever persisted.  
You were seen by Gastroenterology as well for gastrointestinal 
bleeding and worsening anemia that needed a blood transfusion.  
The gastroenterologists performed endoscopy looking into your 
esophagus and stomach.  This test showed severe esophagitis 
(inflammation of the esophagus), the likely cause of intestinal 
bleeding.  The esophagitis was likely due to a hiatal hernia and 
acid reflux.  You were started on a medication to decrease 
stomach acid and the head of your bed should be kept elevated to 
prevent acid reflux.  Chest CT scan showed enlargement of a lung 
nodule seen on your prior scan.  You will require further 
follow-up of this nodule.  You developed thrush that was treated 
with fluconazole.  Your sarcoma pain was treated with narcotic 
pain medication, a lidocaine patch, and gabapentin (Neurontin).  
For one day, you had low oxygen levels and were confused.  This 
was likely due to overmedication with pain meds and resolved 
when the doses were decreased.  Because of all these medical 
issues, you started cancer treatment with radiation therapy and 
chemotherapy was delayed.  For unclear reasons, you developed 
acute kidney failure.  The kidney doctors recommended ___ 
biopsy, which was performed and only showed kidney damage, but 
not the actual cause.  Then the kidney function stabilized, so 
chemotherapy was started, but without cisplatin, which can 
damage kidneys.  You tolerated this well and will need to go to 
rehab for physical therapy as the tumor has caused severe 
weakness of the right leg.
.
Also, just prior to starting chemo, you had a colonoscopy for 
blood in the stool.  This showed inflammation of the rectum due 
to radiation.
.
MEDICATION CHANGES:
1. Ranitidine 2x a day.
2. Gabapentin 300mg 2x a day.
3.Oxycontin 20 mg po bid 
4.Oxycodone pain
5.Neupogen 480 sc daily x 7 days
6.Zofran 8 mg po q 8hrs as needed for nausea
7.Cipro 500 daily x 2 days
 
Followup Instructions:
___